US07951805B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PENTYLAMIDE HYDROCHLORIDE
Following the procedure as described in Example 1, making variations only as required to use 6-chloropyridazine-3-carboxylic acid pentylamide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide to react with piperidin-4-yl-(2-trifluoromethylphenyl)amine, the title compound was obtained as a white powder in 37% yield. 1H NMR (300 MHz, DMSO-d6) δ 8.79 (t, J=5.4 Hz, 1H), 7.94 (d, J=9.9 Hz, 1H), 7.66 (d, J=9.6 Hz, 1H), 7.50-7.40 (m, 2H), 7.05-7.02 (m, 1H), 6.72 (t, J=7.5 Hz, 1H), 4.48 (d, J=13.2 Hz, 2H), 3.83 (br., s, 1H), 3.34-3.26 (m, 4H), 2.02 (d, J=10.8 Hz, 2H), 1.65-1.50 (m, 4H), 1.37-1.16 (m, 4H), 0.86 (t, J=6.3 Hz, 3H). 13C NMR (75 MHz, DMSO-d6) δ 162.0, 157.3, 144.4, 144.1, 133.6, 127.9, 126.8, 126.5, 123.2, 116.5, 115.7, 113.0, 112.2, 48.9, 44.5, 30.6, 28.8, 28.6, 21.8, 13.9. MS (ES+) m/z 436.2 (M+1-HCl).

reactant | 6-chloropyridazine-3-carboxylic acid pentylamide | C(CCCC)NC(=O)C=1N=NC(=CC1)Cl | C10H14ClN3O
reactant | piperidin-4-yl-(2-trifluoromethylphenyl)amine | N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | C12H15F3N2
product | 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID PENTYLAMIDE HYDROCHLORIDE | 37% yield | Cl.C(CCCC)NC(=O)C=1N=NC(=CC1)N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C22H28F3N5O.ClH/c1-2-3-6-13-26-21(31)19-9-10-20(29-28-19)30-14-11-16(12-15-30)27-18-8-5-4-7-17(18)22(23,24)25;/h4-5,7-10,16,27H,2-3,6,11-15H2,1H3,(H,26,31);1H
